US06596758B1
a) 2-n-Pentyl-3-formyl-2H-1-benzopyran
A mixture of 22.0 g (0.18 mol) of salicylaldehyde, 25.0 g (0.198 mol) of 2-octenal and 24.8 g (0.18 mol) of potassium carbonate in 200 ml of dioxane, maintained under an inert atmosphere, is heated at reflux for 2.5 h. The reaction mixture is subsequently brought to room temperature (20-25° C.) and then diluted by addition of 1.5 litres of water. The formation of an oil is observed, which oil is extracted with methylene chloride. The organic phase is dried over anhydrous sodium sulphate and then concentrated under reduced pressure. The title compound is thus obtained in a form of an orange oil, which oil is distilled under reduced pressure (B.p. (0.44 mm Hg): 132-140° C.). 20 g of the title product are obtained by distillation (48% yield).

reactant | salicylaldehyde | 0.18 mol, 22.0 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | 2-octenal | 0.198 mol, 25.0 g | C(C=CCCCCC)=O | C8H14O
reactant | potassium carbonate | 0.18 mol, 24.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 1.5 litres | O | H2O
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 2-n-Pentyl-3-formyl-2H-1-benzopyran | 48% yield | C(CCCC)C1OC2=C(C=C1C=O)C=CC=C2 | C15H18O2
